US06762320B2
a) N-[4-(3-Fluoro-benzyloxy)-phenyl]-2,2-dimethyl-malonamic acid ethyl ester
The title compound is prepared in analogy to example 2, starting from 4-(3-fluoro-benzyloxy)-phenylamine and 2,2-dimethyl-malonic acid monoethyl ester (Holmes et al., J. Amer Chem. Soc. 1984, 106, 2353). Yield after flash-chromatography with cyclohexane/ethyl acetate 7:3: 79%. Colorless oil. MS: m/e=359 (M+).

reactant | 4-(3-fluoro-benzyloxy)-phenylamine | FC=1C=C(COC2=CC=C(C=C2)N)C=CC1 | C13H12FNO
reactant | 2,2-dimethyl-malonic acid monoethyl ester | C(C)OC(C(C(=O)O)(C)C)=O | C7H12O4
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | N-[4-(3-Fluoro-benzyloxy)-phenyl]-2,2-dimethyl-malonamic acid ethyl ester | C(C)OC(C(C(=O)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)(C)C)=O | C20H22FNO4
